US04136256
Preparation of ethyl 4-[p-(2,2,2-trifluoro-N-hexadecylacetamido)benzamido]benzoate
To a stirred solution of 1.65 g. of ethyl p-amino-benzoate and 1.6 ml. of pyridine in 5 ml. of dichloromethane at 0° C. is added a solution of 4.75 g. of p-(2,2,2-trifluoro-N-hexadecylacetamido)benzoyl chloride in 10 ml. of dichloromethane. After 20 hours at ambient temperature the solution is diluted with dichloromethane and washed with water and sodium bicarbonate solution. The residue obtained on evaporation of solvent is recrystallized from hexane-ether to give a white, crystalline solid, m.p. 91°-93° C.

reactant | ethyl p-amino-benzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | p-(2,2,2-trifluoro-N-hexadecylacetamido)benzoyl chloride | FC(C(=O)N(CCCCCCCCCCCCCCCC)C1=CC=C(C(=O)Cl)C=C1)(F)F | C25H37ClF3NO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 4-[p-(2,2,2-trifluoro-N-hexadecylacetamido)benzamido]benzoate | FC(C(=O)N(CCCCCCCCCCCCCCCC)C1=CC=C(C(=O)NC2=CC=C(C(=O)OCC)C=C2)C=C1)(F)F | C34H47F3N2O4
